US05145970
N-Octadecyl-2-(4-amino-3-tert-butyl-5-methylphenylthio)succinimide
A stirred solution of 2.8 g (14 mmol) of 2-tert-butyl-4-mercapto-6-methylaniline, 5.0 g (14 mmol) of N-octadecylmaleimide and 0.1 g (1 mmol) of triethylamine in 50 mL of toluene is heated at 50° C. for 18 hours. The solvent is removed in vacuo and the residue is purified by preparative HPLC (silica gel, 4:1, heptane:ethyl acetate eluent) to give 4.3 g (55%) of the title compound as a caramel-colored liquid.

reactant | 2-tert-butyl-4-mercapto-6-methylaniline | 14 mmol, 2.8 g | C(C)(C)(C)C1=C(N)C(=CC(=C1)S)C | C11H17NS
reactant | N-octadecylmaleimide | 14 mmol, 5.0 g | C(CCCCCCCCCCCCCCCCC)N1C(C=CC1=O)=O | C22H39NO2
reactant | triethylamine | 1 mmol, 0.1 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-Octadecyl-2-(4-amino-3-tert-butyl-5-methylphenylthio)succinimide | 4.3 g, 55% | C(CCCCCCCCCCCCCCCCC)N1C(C(CC1=O)SC1=CC(=C(C(=C1)C)N)C(C)(C)C)=O | C33H56N2O2S
